US08486967B2
f) 2-Amino-8-bromo-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid methyl ester
To a solution of N-(3-bromo-6-ethoxycarbonyl-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea (2 g, 5.52 mmol) in dry methanol (10 mL) were added hydroxylamine hydrochloride (1.92 g, 27.62 mmol) and diisopropyl ethylamine (2.98 mL, 16.57 mmol) under an argon atmosphere and stirred at room temperature for 4 hours. The solid was filtered and methanol (40 mL) was added to residue. The reaction mixture was heated to reflux for 12 hours. The solvent was evaporated and the title compound was obtained as off white solid (800 mg, 53%).

reactant | N-(3-bromo-6-ethoxycarbonyl-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea | 5.52 mmol, 2 g | BrC=1C(=NC(=CC1)C(=O)OCC)NC(=S)NC(=O)OCC | C12H14BrN3O4S
reactant | hydroxylamine hydrochloride | 27.62 mmol, 1.92 g | Cl.NO
reactant | diisopropyl ethylamine | 16.57 mmol, 2.98 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 10 mL | CO | CH4O
product | 2-Amino-8-bromo-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=2N1N=C(N2)N)Br | C8H7BrN4O2
